US07700609B2
4-Methyl-1-thiophen-3-yl-pentan-1-one
Magnesium powder (1.49 g, 61.3 mmol) was added to dry diethyl ether (100 ml) under nitrogen atmosphere. One iodine crystal (catalytic) was added, followed by 1-bromo-3-methylbutane (6.3 ml, 52.6 mmol). The reaction was initiated by sonication at 30° C. and was allowed to spontaneously reflux. Once the exothermic reaction had subsided, the mixture was added by cannulation to a solution of thiophene-3-carboxylic acid methoxy-methyl-amide (7.50 g, 43.8 mmol) in dry diethyl ether (10 ml). Once addition was complete, the mixture was stirred at room temperature for 2 hours. The reaction mixture was then washed with saturated ammonium chloride (2×150 ml), dried (Na2SO4) and concentrated in vacuo. The crude yellow oil was purified by silica gel chromatography to yield the title compound as a colourless oil (1.55 g, 19%). δH (d6 DMSO): 0.88 (6H, d), 1.49 (2H, q), 1.56 (1H, m), 2.90 (2H, t), 7.49 (1H, d), 7.59 (1H, d), 8.50 (1H, s).

reactant | Magnesium | 61.3 mmol, 1.49 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-3-methylbutane | 52.6 mmol, 6.3 ml | BrCCC(C)C | C5H11Br
reactant | thiophene-3-carboxylic acid methoxy-methyl-amide | 43.8 mmol, 7.50 g | CON(C(=O)C1=CSC=C1)C | C7H9NO2S
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-Methyl-1-thiophen-3-yl-pentan-1-one | 1.55 g, 19% | CC(CCC(=O)C1=CSC=C1)C | C10H14OS
